Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
thoracic outlet syndrome 
 
Major Surgical or Invasive Procedure:
___: Right first rib resection

 
History of Present Illness:
This is a ___ gentleman with a right
upper extremity deep vein thrombosis involving the subclavian
vein after a clavicle fracture with a history of prior
clavicle fracture as well.  He had thrombolysis and
venography that demonstrated severe compression of the vein
by the clavicle and 1st rib and successful lysis.  He
presents now for rib resection.

 
Past Medical History:
Motorcycle crash / clavicle fx R 
 
Social History:
___
Family History:
nc 
 
Physical Exam:
gen: wdwn male in nad
cv: rrr
lungs: cta bilat
chest: right surgical incision c/d/i; jp drain site covered with 
vaseline gazue/dsd/silk tape 
abd: soft non tender

 
Pertinent Results:
___ 08:40AM BLOOD WBC-8.7# RBC-4.53* Hgb-13.9* Hct-39.9* 
MCV-88 MCH-30.7 MCHC-34.9 RDW-13.3 Plt ___
___ 08:40AM BLOOD Glucose-110* UreaN-14 Creat-0.9 Na-142 
K-3.9 Cl-103 HCO3-30 AnGap-13
___ 08:40AM BLOOD ___ PTT-29.9 ___
 
Brief Hospital Course:
Mr. ___ was admitted and underwent 1st rib resection. He did 
well, pain was well controlled and he was independent. He had a 
JP drain on the right which was removed without difficulty. Post 
pull xray showed no pneumothorax. He was discharged ___ on pod 
1. He will follow up in a few weeks with CTV . 
 
Medications on Admission:
alprazolam 0.25 mg prn anxiety; Lovenox 90mg''; warfarin 5 mg'
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*100 Tablet Refills:*0
3. Enoxaparin Sodium 90 mg SC Q12H Start: ___, First Dose: 
Next Routine Administration Time 
4. Warfarin 5 mg PO DAILY16 
7.5mg two days per week  
RX *warfarin 5 mg 1 - 1.5 tablet(s) by mouth daily as directed 
Disp #*45 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right upper extremity venous thoracic outlet syndrome.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You had a first rib resection. You can not lift anything greater 
than 5 lbs for 1 month. No over head movements x 1 month. 

Please keep the dressing on your Right chest for 2 days. After 
that you may shower. 

No driving x 1 month - until follow up 

Resume coumadin/lovenox at your previous dose. Have your INR 
checked on ___. 
 
Followup Instructions:
___